datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH2:10][CH+:11][CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10,11=10,20;20,21=21,22;22,23=23"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.C[N:21](C1=CC=CC=C1)[CH2:20][H:10] 10,11=10,20;20,21=21"
"C[Si](C)(C)[Si:62]([Si](C)(C)C)([C:11](C)=[CH2:10])[Si:63](C)(C)C.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[Si](C)(C)[Si:62]([Si](C)(C)C)([C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11](C)=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH3:10])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O>>C[C:21]([CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25].[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C.Cl[C:20]1([H:10])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]=[CH:11]1.C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH:62]1CC[CH:10]([CH:20](C)C[Fe-3:21]2345(C#[O+])(C#[O+])C6C2C3C4C65)[CH+:11]1 10,11=10,20;20,21=21"
"FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CCC2)C(F)=C1F.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][CH:10]1CCC[C:11]1=[O+:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:11]#[N:12])([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11](C)C.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:31]3([CH2:20][C:10](C)(C)[C+:11](C)C)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]([C:11](=[O:12])[O:61]CC)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
